US07192967B1
N-[6-(1,3-dioxo-1H,3H-benzo [de]isoquinolin-2-yl)-hexyl]-3-pyridin-3-yl-acrylamide (substance 204)
Batch size: 5.3 g (35.5 mmol) 3-(3-pyridyl)-acrylic acid, 12.4 g (97.9 mmol) oxalyl chloride and 8.6 g (32.6 mmol) 6-(1,3-dioxo-1H, 3H-benzo[de]isoquinolin-2-yl)-hexylamine.

reactant | 3-(3-pyridyl)-acrylic acid | 35.5 mmol, 5.3 g | N1=CC(=CC=C1)C=CC(=O)O | C8H7NO2
reactant | oxalyl chloride | 97.9 mmol, 12.4 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 6-(1,3-dioxo-1H, 3H-benzo[de]isoquinolin-2-yl)-hexylamine | 32.6 mmol, 8.6 g | O=C1N(C(C2=C3C(C=CC=C13)=CC=C2)=O)CCCCCCN | C18H20N2O2
product | N-[6-(1,3-dioxo-1H,3H-benzo [de]isoquinolin-2-yl)-hexyl]-3-pyridin-3-yl-acrylamide | O=C1N(C(C2=C3C(C=CC=C13)=CC=C2)=O)CCCCCCNC(C=CC=2C=NC=CC2)=O | C26H25N3O3
